US08217032B2
8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride
Dissolve methanesulfonic acid 8-fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester (7.5 g, 13.3 mmol) in methanol (130 mL), add potassium hydroxide (7.5 g, 133 mmol) and stir at room temperature over night. Pour the reaction into saturated aqueous ammonium chloride and extract with methylene chloride. Dry organic layer with sodium sulfate, filter and concentrate in mow. Dissolve the resultant residue in methylene chloride (50 mL) and add 2M HCl in ether (10 mL). Remove the solvent in vacuo and redissolve in methylene chloride (10 mL). Add slowly to vigorously stirred ether. Collect the resulting precipitate and place in a 50° C. vacuum oven overnight to yield 5.7 g (82%) of the title compound. HPLC Rt (0.01% heptafluorobutyric acid:1.0% isopropylalcohol:water is mobile phase A and 0.01% heptafluorobutyric acid:1.0% isopropylalcohol:acetonitrile is mobile phase B; gradient method 30 to 95% B, Purity@254 nm)=2.06 min (100%); mass spectrum (ion spray): m/z=486.3 (M−Cl). Chiral HPLC: 84% ee.

reactant | methanesulfonic acid 8-fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester | 13.3 mmol, 7.5 g | FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)OS(=O)(=O)C)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H30FNO4S2
reactant | potassium hydroxide | 133 mmol, 7.5 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 130 mL | CO | CH4O
product | 8-Fluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-ol hydrochloride | 5.7 g, 82% | Cl.FC=1C=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC1)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H28FNO2S.ClH/c31-22-7-12-26-27-11-6-21-18-23(33)8-13-25(21)29(27)30(35-28(26)19-22)20-4-9-24(10-5-20)34-17-16-32-14-2-1-3-15-32;/h4-13,18-19,30,33H,1-3,14-17H2;1H
